US07589076B2
2-(methoxy)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
2-(methoxy)phenyl chloroformate (5.00 g, 26.8 mmol) was added to a solution of tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate (4.60 g, 20.6 mmol) according to general procedure 1. Yield=5.03 g, 89%. m/z MH+=274.04. HPLC rt=8.7 min.

reactant | 2-(methoxy)phenyl chloroformate | 26.8 mmol, 5.00 g | ClC(=O)OC1=C(C=CC=C1)OC | C8H7ClO3
reactant | tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 20.6 mmol, 4.60 g | C(C#C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO2
product | 2-(methoxy)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=C(C=CC=C1)OC | C16H19NO3
